US07834039B2
A solution of benzyl 3-oxopiperazine-1-carboxylate (20.50 g, 10.67 mmol) in CH2Cl2 (100 ml) was cooled to 0° C. and treated with Na2CO3 (23.0 g, 217 mmol) for 10 minutes. Neat trimethyloxonium tetrafluoroborate (5.50 g, 37.2 mmol) was added in one portion, then the reaction is allowed to warm to room temperature for 6 hours. The reaction was poured into water (100 ml), and the layers were separated. The aqueous layer was re-extracted aqueous with 50 ml CH2Cl2 and the combined organic layers were washed with brine (100 ml). The organic layer was dried over sodium sulfate, filtered and concentrated to yield 5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid benzyl ester (2.51 g, 95%) as an oil. LCMS (Table 1, Method a) Rt=3.00 min, m/z 249.24 (M+H)+−; 1H NMR (400 MHz, DMSO-d6) δ 7.36 (m, 5H), 5.16 (s, 2H), 3.96 (s, 2H), 3.68 (s, 3H), 3.54 (s, 2H), 3.47 (m, 2H)

reactant | benzyl 3-oxopiperazine-1-carboxylate | 10.67 mmol, 20.50 g | O=C1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C12H14N2O3
reactant | Na2CO3 | 217 mmol, 23.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trimethyloxonium tetrafluoroborate | 37.2 mmol, 5.50 g | F[B-](F)(F)F.C[O+](C)C
reactant | water | 100 ml | O | H2O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid benzyl ester | 2.51 g, 95% | C(C1=CC=CC=C1)OC(=O)N1CCN=C(C1)OC | C13H16N2O3
